US06399627B1
To a solution of methyl 2-{(2E)-3-(3-amidinophenyl)-2-fluoro-N-[4-(2-sulfamoylphenyl)phenyl]but-2-enoylamino}acetate (100 mg, 0.19 mmol) in 5 ml methanol was added a 0.5N lithium hydroxide solution (1 ml, 0.5 mmol). The reaction was stirred at room temperature for 4 hours then concentrated and purified on a 2×25 cm Vydac C18 HPLC column to give 2-{(2E)-3-(3-amidinophenyl)-2-fluoro-N-[4-(2-sulfamoylphenyl)phenyl]but-2-enoylamino}acetic acid (70 mg, 71%) as a fluffy white powder after lyophilization. ES-MS (M+H+): 511.1.

reactant | methyl 2-{(2E)-3-(3-amidinophenyl)-2-fluoro-N-[4-(2-sulfamoylphenyl)phenyl]but-2-enoylamino}acetate | 0.19 mmol, 100 mg | C(N)(=N)C=1C=C(C=CC1)/C(=C(\C(=O)NCC(=O)OC)/F)/CC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O | C26H25FN4O5S
reactant | lithium hydroxide | 0.5 mmol, 0.5N, 1 ml | [OH-].[Li+]
solvent | methanol | 5 ml | CO | CH4O
product | 2-{(2E)-3-(3-amidinophenyl)-2-fluoro-N-[4-(2-sulfamoylphenyl)phenyl]but-2-enoylamino}acetic acid | 70 mg, 71% | C(N)(=N)C=1C=C(C=CC1)/C(=C(\C(=O)NCC(=O)O)/F)/CC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O | C25H23FN4O5S
